US08293737B2
b) 2-Chloro-5-nitro-nicotinic acid
2-Hydroxy-5-nitro-nicotinic acid (2.7 mmol) in a mixture of N,N-dimethylformamide (2.7 mmol) and thionyl chloride (5 ml) was heated at 80° C. for 1 h. The mixture was allowed to cool and concentrated in vacuo. To the resulting residue was added ice-water (20 ml) and with vigorous stirring a precipitate formed. The precipitate was filtered off and dried in a vacuum oven to give a white solid (68%).

reactant | 2-Hydroxy-5-nitro-nicotinic acid | 2.7 mmol | OC1=C(C(=O)O)C=C(C=N1)[N+](=O)[O-] | C6H4N2O5
reactant | N,N-dimethylformamide | 2.7 mmol | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-Chloro-5-nitro-nicotinic acid | 68% | ClC1=C(C(=O)O)C=C(C=N1)[N+](=O)[O-] | C6H3ClN2O4
